* VCVS amplifier - SPICE Task 7 controlled source E2E test
* E1: ideal voltage-controlled voltage source, gain=2
* V(2) = 2 * V(1) at all times
Vin 1 0 SIN(0 1 1k)
E1 2 0 1 0 2.0
Rl 2 0 1k
.tran 1u 5m
.end
